US08957068B2
A solution of (S)-3-(2-fluoropyrimidin-4-yl)-4-isopropyloxazolidin-2-one (1055 mg, 4.68 mmol), 1-(5-(4-fluoro-3-methylphenyl)pyrimidin-2-yl)ethanamine (1300 mg, 5.62 mmol, 1.2 equiv) and diisopropylethylamine (908 mg, 7.03 mmol, 1.5 equiv) in DMSO (20 mL) was heated at 110° C. for 1 h. The reaction mixture was poured into water (60 mL) and extracted with EtOAc (2×50 mL). Combined organics were washed with water (40 mL), brine (40 mL), dried over Na2SO4, filtered and concentrated directly onto silica gel. Silica gel chromatography provided the mixed distereomers of (S)-3-(2-(1-(5-(4-fluoro-3-methylphenyl)pyrimidin-2-yl)ethylamino) pyrimidin-4-yl)-4-isopropyloxazolidin-2-one (560 mg). Chiral separation was carried out with SFC (ID, 5 μm, 20×250 mm) using 35% MeOH in CO2 to give (S)-3-(2-((S)-1-(5-(4-fluoro-3-methylphenyl)pyrimidin-2-yl)ethylamino)pyrimidin-4-yl)-4-isopropyloxazolidin-2-one and (S)-3-(2-((R)-1-(5-(4-fluoro-3-methylphenyl)pyrimidin-2-yl)ethylamino)pyrimidin-4-yl)-4-isopropyloxazolidin-2-one.

reactant | (S)-3-(2-fluoropyrimidin-4-yl)-4-isopropyloxazolidin-2-one | 4.68 mmol, 1055 mg | FC1=NC=CC(=N1)N1C(OC[C@@H]1C(C)C)=O | C10H12FN3O2
reactant | 1-(5-(4-fluoro-3-methylphenyl)pyrimidin-2-yl)ethanamine | 5.62 mmol, 1300 mg, 1.2 equiv | FC1=C(C=C(C=C1)C=1C=NC(=NC1)C(C)N)C | C13H14FN3
reactant | diisopropylethylamine | 7.03 mmol, 908 mg, 1.5 equiv | C(C)(C)N(CC)C(C)C | C8H19N
reactant | water | 60 mL | O | H2O
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
product | (S)-3-(2-(1-(5-(4-fluoro-3-methylphenyl)pyrimidin-2-yl)ethylamino) pyrimidin-4-yl)-4-isopropyloxazolidin-2-one | 560 mg | FC1=C(C=C(C=C1)C=1C=NC(=NC1)C(C)NC1=NC=CC(=N1)N1C(OC[C@@H]1C(C)C)=O)C | C23H25FN6O2
